US08809377B2
1-(4-(Methoxymethoxy)phenyl)butan-1-amine (4)
A solution of 1-(4-(methoxymethoxy)phenyl)butan-1-one oxime (3.4 g, 15.2 mmol) in tetrahydrofuran (50 mL) was added drop-wise to a stirred suspension of lithium aluminum hydride (1.83 g, 45.7 mmol) in tetrahydrofuran (100 mL) at room temp under nitrogen. After the initial foaming subsided the mixture was gradually heated to reflux. After 7 hours under reflux the mixture was allowed to cool, and an additional 1.0 g of lithium aluminum hydride was added to the mixture, which was reheated at reflux for 4 hours and then again allowed to cool. An additional 0.2 g of lithium aluminum hydride was added and the mixture was reheated at reflux for 1 hour and then allowed to cool. 3 mL of water was added drop-wise, followed by 3 mL of 15% aq sodium hydroxide, and then 9 mL of water. After stirring until the precipitate was well-granulated, the mixture was filtered and the residue washed twice with tetrahydrofuran. The filtrate/washings were concentrated in vacuo and the residue dissolved in dichloromethane and dried over magnesium sulfate. The solvent was removed in vacuo, leaving 2.9 g of purplish syrupy residue, which was flash chromatographed on a column (50×90 mm) of silica gel, eluting with Hxa/EtOAc/acetone 8:1:1 to afford 0.4 g of pure product as a clear golden oil, plus 1.4 g (57% total) of material of slightly lesser purity.

reactant | 1-(4-(methoxymethoxy)phenyl)butan-1-one oxime | 15.2 mmol, 3.4 g | COCOC1=CC=C(C=C1)C(CCC)=NO | C12H17NO3
reactant | lithium aluminum hydride | 45.7 mmol, 1.83 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 0.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 3 mL | O | H2O
reactant | sodium hydroxide | 3 mL | [OH-].[Na+]
reactant | water | 9 mL | O | H2O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-(4-(Methoxymethoxy)phenyl)butan-1-amine | 2.9 g | COCOC1=CC=C(C=C1)C(CCC)N | C12H19NO2
